US04492692
4-(3-Aminopropyl)-2-fluoro-1-triphenylmethylimidazole was dissolved in THF and treated with N-methylmorpholine and isobutylchloroformate. Extractive work-up followed by chromatography gave 2-fluoro-4-(3-isobutoxycarbonylaminopropyl)-1-triphenylmethylimidazole.

reactant | 4-(3-Aminopropyl)-2-fluoro-1-triphenylmethylimidazole | NCCCC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H24FN3
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | THF | C1CCOC1 | C4H8O
product | 2-fluoro-4-(3-isobutoxycarbonylaminopropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCNC(=O)OCC(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H32FN3O2
